US06242443B1
a) 7-Chloro-3-methylsulfinyl-4H-1,2,4-benzothiadiazine 1,1-dioxide
A suspension of 7-chloro-3-methylsulfanyl-4H-1,2,4-benzothiadiazine 1,1-dioxide (0.5 g) in an aqueous solution of sodium hydrogen carbonate (0.22 g/25 mL) was supplemented dropwise with 2M NaOH until complete dissolution. Liquid bromine (0.1 mL) was added under stirring at room temperature. After 10 min., the resulting suspension was adjusted to pH 2-3 with 6N HCl and the insoluble material was collected by filtration and washed with water. The white precipitate was suspended in methanol (20 mL), stirred for 1 h and then collected by filtration, washed with methanol and dried (yield: 0.45 g); m.p. 260-261° C.

reactant | 7-chloro-3-methylsulfanyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | 0.5 g | ClC1=CC2=C(NC(=NS2(=O)=O)SC)C=C1 | C8H7ClN2O2S2
reactant | sodium hydrogen carbonate | 25 mL, 0.22 g | C(O)([O-])=O.[Na+]
reactant | NaOH | 2M | [OH-].[Na+]
reactant | bromine | 0.1 mL | BrBr | Br2
reactant | HCl | 6N | Cl | ClH
product | 7-Chloro-3-methylsulfinyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)S(=O)C)C=C1 | C8H7ClN2O3S2
